US07592358B2
42.1a. (4-bromophenyl)-(S)-1-pyrrolidin-2-ylmethylamine
2.45 g (10.00 mmol) of potassium phosphate monohydrate was added under argon to a mixture of 1.42 g (5.00 mmol) of 1-bromo-4-iodobenzene, 1.00 g (5.00 mmol) of tert-butyl (S)-2-aminomethylpyrrolidine-1-carboxylate, 48 mg (0.25 mmol) of CuI, and 97 mg (0.50 mmol) of N,N-diethylsalicylamide in 5 mL of DMF and the mixture was stirred for 160 hours at 100° C. The reaction mixture was cooled to RT, combined with 100 mL of 4M aqueous HCl, and stirred for 1 hour at RT. The aqueous phase was washed with MTBE, made basic with concentrated aqueous ammonia, and exhaustively extracted with MTBE. The combined organic extracts were dried over magnesium sulfate, filtered through activated charcoal, and evaporated down in vacuo. The crude product was purified by MPLC (Hyperprep HS C18, 8 μm, gradient 0.15% formic acid in water/acetonitrile 10/90→90/10 v/v). The eluates were evaporated down in vacuo and the residue was neutralized with sat. aqueous sodium bicarbonate solution. The aqueous phase was extracted with DCM, dried over magnesium sulfate and evaporated down in vacuo. Yield: 0.20 g (16% of theoretical); C11H15BrN2 (M=255.2); calc.: molpeak (M+H)+: 255/257 (Br); found: molpeak (M+H)+:255/257 (Br); HPLC-MS: 3.90 minutes (method B).

reactant | potassium phosphate monohydrate | 10.00 mmol, 2.45 g | O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1-bromo-4-iodobenzene | 5.00 mmol, 1.42 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | tert-butyl (S)-2-aminomethylpyrrolidine-1-carboxylate | 5.00 mmol, 1.00 g | NC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | N,N-diethylsalicylamide | 0.50 mmol, 97 mg | C(C)N(C(C=1C(O)=CC=CC1)=O)CC | C11H15NO2
reactant | HCl | 4M, 100 mL | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.25 mmol, 48 mg | [Cu]I
product | (4-bromophenyl)-(S)-1-pyrrolidin-2-ylmethylamine | BrC1=CC=C(C=C1)NC[C@H]1NCCC1 | C11H15BrN2
